US05985935
A solution of 568 mg (2 mmol) of 2,4dimethoxy-4'-hydroxychalcone in ethanol (20 ml) was added 50 mg of platinum on charcoal (10%) and hydrogenated at 20 atm for 18 h. The colourless solution was filtered and concentrated in vacuo to give 606 mg, from which 143.7 mg (24%) of 3-(2,4-dimethoxyphenyl)-1-(4-hydroxyphenyl)propan-1-on was isolated by column chromatography over silica gel 60 (Merck 0.063-0.200 mm, 60 g) using petroleum ether-ethyl acetate (4:1, 500 ml, 3:1, 500 ml) as eluents, m.p. 126.4-127.4° C.

reactant | 2,4dimethoxy-4'-hydroxychalcone | 2 mmol, 568 mg | COC1=C(C=CC(=C1)OC)C=CC(=O)C1=CC=C(C=C1)O | C17H16O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | platinum on charcoal | 50 mg | [Pt] | Pt
product | 3-(2,4-dimethoxyphenyl)-1-(4-hydroxyphenyl)propan-1-on | 143.7 mg, 24% | COC1=C(C=CC(=C1)OC)CCC(=O)C1=CC=C(C=C1)O | C17H18O4
